US05171873
A thermostatically controllable reactor is charged with 263 g (1 mol) of (4-hydroxy-3,5-di-tert-butylbenzyl)dimethylamine und 500 g of petroleum ether 100/140. With stirring and blanketing with inert gas, the reaction mixture is heated to 80° C. and 130 g (1.05 mol) of trimethyl phosphite are run into the clear solution. With cooling, 107 g (1.05 mol) of acetic anhydride are then added dropwise over 2 hours at 80° C., and stirring is continued for 2 hours at 80° C. The solvent is removed by distillation until the temperature is 115° C. The residual reaction solution is cooled to room temperature and stirred with 1 liter of water. The crystallised product is filtered with suction, washed with petroleum ether 100/140 and dried, giving 307 g (93% of theory) of almost colourless dimethyl 4-hydroxy-3,5-di-tert-butylbenzylphosphonate of m.p. 156°-160° C.

reactant | (4-hydroxy-3,5-di-tert-butylbenzyl)dimethylamine | 1 mol, 263 g | OC1=C(C=C(CN(C)C)C=C1C(C)(C)C)C(C)(C)C | C17H29NO
reactant | trimethyl phosphite | 1.05 mol, 130 g | P(OC)(OC)OC | C3H9O3P
reactant | acetic anhydride | 1.05 mol, 107 g | C(C)(=O)OC(C)=O | C4H6O3
product | dimethyl 4-hydroxy-3,5-di-tert-butylbenzylphosphonate | OC1=C(C=C(CP(OC)(OC)=O)C=C1C(C)(C)C)C(C)(C)C | C17H29O4P
